US07906645B2
tert-Butyl (2R)-2-[(4-benzylpiperazin-1-yl)carbonyl]piperazine-1-carboxylate
1-Benzylpiperazine (2.7 ml) and (2R)-1-BOC-piperazine-2-carboxylic acid (3.571 g) were suspended in DMF (150 ml) and stirred at 0° C. Triethylamine (4.33 ml) was added followed by PyBOP reagent (8.08 g). The mixture was allowed to warm to room temperature overnight, concentrated to approximately a third of the volume in vacuo and partitioned between brine (75 ml) and ethyl acetate (2×200 ml). Combined organic extracts were treated with saturated aqueous sodium bicarbonate (75 ml) and brine (75 ml), dried (sodium sulphate), concentrated in vacuo using high vacuum to remove DMF traces and purified by chromatography eluting with 0-15% methanol/dichloromethane. This gave tert-butyl (2R)-2-[(4-benzylpiperazin-1-yl)carbonyl]piperazine-1-carboxylate as a white glass (5.01 g).

reactant | 1-Benzylpiperazine | 2.7 ml | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | (2R)-1-BOC-piperazine-2-carboxylic acid | 3.571 g | C(=O)(OC(C)(C)C)N1[C@H](CNCC1)C(=O)O | C10H18N2O4
reactant | Triethylamine | 4.33 ml | C(C)N(CC)CC | C6H15N
reactant | PyBOP | 8.08 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | tert-Butyl (2R)-2-[(4-benzylpiperazin-1-yl)carbonyl]piperazine-1-carboxylate | C(C1=CC=CC=C1)N1CCN(CC1)C(=O)[C@@H]1N(CCNC1)C(=O)OC(C)(C)C | C21H32N4O3
